US07745438B2
(+/−)-trans-2-hydroxymethyl-cyclopropanecarboxylic acid ethyl ester
Add isobutylchloroformate (0.41 mL, 3.16 mmol) and N-methylmorpholine (0.35 mL, 3.16 mmol) to a solution of (+/−)-trans-cyclopropane-1,2-dicarboxylic acid monoethyl ester (0.50 g, 3.161 mmol) in tetrahydrofuran (21 mL) at −50° C. Stir for 5 minutes and then filter into a slurry of sodium borohydride (0.084 g, 2.21 mmol) in tetrahydrofuran (9 mL) and cool to −50° C. Warm to room temperature over night and then add 9 mL of water. Remove tetrahydrofuran under reduced pressure and extract aqueous layer with diethyl ether (3×20 mL). Wash combined organic layers with saturated aqueous sodium chloride and dry over magnesium sulfate. Concentrate under reduced pressure and subject residue to silica gel chromatography eluting with 25-65% ethyl acetate in hexanes to provide the desired compound (0.224 g, 49.1%).

reactant | isobutylchloroformate | 3.16 mmol, 0.41 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-methylmorpholine | 3.16 mmol, 0.35 mL | CN1CCOCC1 | C5H11NO
reactant | (+/−)-trans-cyclopropane-1,2-dicarboxylic acid monoethyl ester | 3.161 mmol, 0.50 g | C(C)OC(=O)[C@H]1[C@@H](C1)C(=O)O | C7H10O4
reactant | sodium borohydride | 2.21 mmol, 0.084 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 21 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
solvent | water | 9 mL | O | H2O
product | (+/−)-trans-2-hydroxymethyl-cyclopropanecarboxylic acid ethyl ester | 0.224 g, 49.1% | C(C)OC(=O)[C@H]1[C@@H](C1)CO | C7H12O3
